US04065432
A mechanically stirred mixture of 0.6 g of calcium acetate, 0.6 g of antimony oxide, 15.7 g (0.15 M) of 2,2-dimethyl-1,3-propanediol, and 132 g (0.6 mole) of methyl 3,5-dichloro-4-hydroxybenzoate was heated under a nitrogen atmosphere at 200° C for 18 hours. The reaction mixture was washed three times with benzene in a Waring Blendor and extracted for five days with 2 liters of hot benzene. The extract, on cooling, yielded 50.5 g of 4,4'-[2,2-dimethyl-1,3-propanediylbis(oxycarbonyl)]bis-(2,6-dichlorophenol) melting at 180°-181° C. The infrared spectrum was consistent with the indicated structure. The compound contained 4.115 meq. of OH/g, indicating a molecular weight of 486 for the bisphenol.

reactant | 2,2-dimethyl-1,3-propanediol | 0.15 M, 15.7 g | CC(CO)(CO)C | C5H12O2
reactant | methyl 3,5-dichloro-4-hydroxybenzoate | 0.6 mole, 132 g | ClC=1C=C(C(=O)OC)C=C(C1O)Cl | C8H6Cl2O3
catalyst | calcium acetate | 0.6 g | C(C)(=O)[O-].[Ca+2].C(C)(=O)[O-]
catalyst | antimony oxide | 0.6 g | [Sb]=O
product | 4,4'-[2,2-dimethyl-1,3-propanediylbis(oxycarbonyl)]bis-(2,6-dichlorophenol) | 50.5 g | CC(COC(=O)C1=CC(=C(C(=C1)Cl)O)Cl)(COC(=O)C1=CC(=C(C(=C1)Cl)O)Cl)C | C19H16Cl4O6
